US08106211B2
1.00 g (6.89 mmol) of 4-[(2-fluoroethyl)amino]furan-2(5H)-one (VI-1) and 0.55 g (13.78 mmol) of a 60% dispersion of sodium hydride in mineral oil in 200 ml of tetrahydrofuran are heated under reflux for 2 h. After cooling to room temperature, 2.23 g (13.78 mmol) of 2-chloro-5-chloromethylpyridine are added, and the mixture is heated under reflux for a further 4 hours. The reaction mixture is cooled to room temperature, and methanol is added. After concentration of the reaction mixture under reduced pressure, the residue is taken up in ethyl acetate and the mixture is washed successively twice with 1 N aqueous hydrochloric acid, twice with 1 N aqueous sodium hydroxide solution and once with saturated sodium chloride solution. The organic phase is then dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60—Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture ethyl acetate:cyclohexane (9:1) gives 949 mg (50% of theory) of 4-[[(6-chloropyridin-3-yl)methyl](2-fluoroethyl)amino]furan-2(5H)-one.

reactant | 4-[(2-fluoroethyl)amino]furan-2(5H)-one | 6.89 mmol, 1.00 g | FCCNC1=CC(OC1)=O | C6H8FNO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5-chloromethylpyridine | 13.78 mmol, 2.23 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[(6-chloropyridin-3-yl)methyl](2-fluoroethyl)amino]furan-2(5H)-one | 949 mg, 50% | ClC1=CC=C(C=N1)CN(C1=CC(OC1)=O)CCF | C12H12ClFN2O2
